US04804662
N-[2-(Diethylamino)ethyl]-4-fluoro-N-(1-napthalenyl)-benzamide
A solution of 8.0 g (33 mmol) of N,N-diethyl-N'-naphthalenyl-1,2-ethanediamine in 100 mL of tetrahydrofuran is treated with a solution of 6.8 g 4-fluorobenzoyl chloride in 50 mL of tetrahydrofuran and stirred at room temperature. After one hour, the solvent is evaporated on the rotary evaporator. The residue is dissolved in 200 mL of methylene chloride and washed with 200 mL of water and 4N sodium hydroxide to pH=14. The organic layer is dried over sodium sulfate, filtered and the solvent evaporated to provide the title compound.

reactant | N,N-diethyl-N'-naphthalenyl-1,2-ethanediamine | 33 mmol, 8.0 g | C(C)N(CCNC1=CC=CC2=CC=CC=C12)CC | C16H22N2
reactant | 4-fluorobenzoyl chloride | 6.8 g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | N-[2-(Diethylamino)ethyl]-4-fluoro-N-(1-napthalenyl)-benzamide | C(C)N(CCN(C(C1=CC=C(C=C1)F)=O)C1=CC=CC2=CC=CC=C12)CC | C23H25FN2O
